US04474786
Preparation of 2-(N-methylamino)-4,6-dihydro-3H[2]-benzopyrano[3,4-b]pyridin-3-one
Add 23.1 gm of 2-chloro-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one to 100 ml of 40% aqueous methylamine and 250 ml of water. Heat the system in a steel bomb at 140° C. for 5 days. Stop the reaction and isolate the title compound.

reactant | 2-chloro-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one | 23.1 gm | ClC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C12H8ClNO2
reactant | methylamine | 100 ml | CN | CH5N
solvent | water | 250 ml | O | H2O
product | 2-(N-methylamino)-4,6-dihydro-3H[2]-benzopyrano[3,4-b]pyridin-3-one | CNC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C13H12N2O2
